* source BUCLA DESCHISA
X_R27         N68737 N69348 N68471 POT PARAMS: SET={Pot_SET} VALUE=10k
Q_Q20         N68463 N68283 N67889 QBC856B 
Q_Q23         N68137 N67979 N68011 QBC846B 
Q_Q19         N68463 N68519 N68873 QBC846B 
Q_Q18         N68283 N68519 N68727 QBC846B 
D_D6         0 N68519 BZX84-C5V1 
Q_Q17         N68261 N68261 N67889 QBC856B 
Q_Q16         N68283 N68261 N67889 QBC856B 
X_D10         N71224 0 LED PARAMS: IS=5.6404e-29 RS=2  BV=5 IBV=10e-6         
R_R1         0 N68273  3.3k TC=0,0 
X_D9         N70737 0 LED PARAMS: IS=5.6404e-29 RS=2  BV=5 IBV=10e-6         
R_R32         N68957 N68519  15k TC=0,0 
V_V1         N67889 0 22
R_R28         N68471 N68297  1.5k TC=0,0 
Q_Q6         N68727 N68519 N68833 QBC846B 
R_R31         N68005 N68011  0.47 TC=0,0 
X_R36         N68957 N69065 0 POT PARAMS: SET=0.451 VALUE=5k
R_R3         0 N68833  2.2k TC=0,0 
R_R30         N67979 N68005  1 TC=0,0 
R_R7         0 N68873  440 TC=0,0 
D_D7         N68273 N67889 BZX84-C5V1 
Q_Q5         N68519 N68273 N68181 QBC807-25 
Q_Q26         N68137 N69065 0 QBC846B 
R_R8         0 N68737  10k TC=0,0 
R_R2         N68181 N67889  820 TC=0,0 
Q_Q29         N67979 N68045 N67889 QMJD32CT4G 
Q_Q7         N68261 N69344 N68727 QBC846B 
R_R16         N68297 N68011  68 TC=0,0 
R_R22         N68011 0  {Rload} TC=0,0 
R_R34         N68463 N68137  1.5k TC=0,0 
Q_Q25         N68045 N68137 N67979 QBC846B 
L_L1         N69344 N69348  0.1  TC=0,0 
V_V2         N69581 0 DC 0Vdc AC 1Vac 
C_C1         N69581 N69344  0.1  TC=0,0 
R_R44         N70659 N67889  330 TC=0,0 
R_R43         N70737 N70711  220 TC=0,0 
R_R37         N70711 N70685  330 TC=0,0 
R_R45         N70685 N70659  330 TC=0,0 
R_R46         N71224 N71006  220 TC=0,0 
R_R40         N70954 N68011  100 TC=0,0 
R_R41         N70980 N70954  100 TC=0,0 
R_R42         N71006 N70980  100 TC=0,0 
.PARAM  pot_set=1 rload=440
